US07825253B2
(5-Bromo-quinolin-2-yl)-(5-methyl-furan-2-ylmethyl)-amine (700 mg, 2.11 mmol) was dissolved in 30 mL tetrahydrofurane. n-Butyllithium solution (1.6 M in hexane, 3.45 mL, 2.16 mmol) was slowly added at −78° C. The reaction mixture was allowed to warm to −10° C. and stirred at this temperature for 45 min. The reaction mixture was then cooled again to −78° C. and dimethylformamide (404 mg, 5.53 mmol) was added. The mixture was then slowly warmed up and quenched with 100 mL water at 5° C. The mixture was extracted three times with ethyl acetate (100 mL each). The organic phases ware pooled, dried with sodium sulfate, filtered and evaporated. The residue was purified by flash chromatography on silica gel (cyclohexane/ethyl acetate 100:0->50:50 gradient). 2-[(5-Methyl-furan-2-ylmethyl)-amino]-quinoline-5-carbaldehyde was obtained as a brown oil (242 mg, 41%), MS: m/e=185.1 (M-methylfuran+).

reactant | (5-Bromo-quinolin-2-yl)-(5-methyl-furan-2-ylmethyl)-amine | 2.11 mmol, 700 mg | BrC1=C2C=CC(=NC2=CC=C1)NCC=1OC(=CC1)C | C15H13BrN2O
reactant | n-Butyllithium | 2.16 mmol, 1.6 M, 3.45 mL | C(CCC)[Li]
reactant | dimethylformamide | 5.53 mmol, 404 mg | CN(C=O)C | C3H7NO
solvent | tetrahydrofurane | 30 mL | O1CCCC1 | C4H8O
product | 2-[(5-Methyl-furan-2-ylmethyl)-amino]-quinoline-5-carbaldehyde | CC1=CC=C(O1)CNC1=NC=2C=CC=C(C2C=C1)C=O | C16H14N2O2
